### PR TITLE
Counter

### PR DESCRIPTION
**Pull request by annenkov**
A simple contract that should serve as an introductory example for ConCert.

### CODE REVIEW

File: execution/theories/Blockchain.v [hunk 1]
```diff
@@ -910,6 +910,27 @@ Definition created_blocks
...
+  | act_deploy amount c setup => false
+  end.
+
+Definition is_transfer (ac : ActionBody) : bool :=
+  match ac with
+  | act_transfer to amount => true
+  | act_call to amount msg => false
+  | act_deploy amount c setup => false
+  end.
+
```
Comment (jakobbotsch) [inline execution/theories/Blockchain.v:933]: These seem unused, remove them?

File: execution/theories/Blockchain.v [hunk 2]
```diff
@@ -2028,3 +2049,68 @@ Global Notation "'Please' 'reestablish' 'the' 'invariant' 'after' 'a' 'recursive
...
+          {State : Type} `{Serializable State}.
+
+(** If the receive function always returns an empty list of actions,
+ the same holds for all reachable states *)
+  Lemma lift_outgoing_txs_empty (contract : Contract Setup Msg State)
+      (bstate : ChainState) (addr : Address) :
+  reachable bstate ->
+  (forall chain ctx cstate msg new_cstate acts,
+      contract.(receive) chain ctx cstate msg = Some (new_cstate, acts) ->
+      acts = []) ->
```
Comment (jakobbotsch) [inline execution/theories/Blockchain.v:2068]: Is there a reason for stating it like this rather than
`contract.(receive) chain ctx cstate msg = Some (new_cstate, [])`?

File: execution/theories/Blockchain.v [hunk 3]
```diff
@@ -2028,3 +2049,68 @@ Global Notation "'Please' 'reestablish' 'the' 'invariant' 'after' 'a' 'recursive
...
+    unset_all; subst.
+    destruct step; auto.
+    destruct a; auto.
+Qed.
+
+(** If some property [P] holds for all actions in the output of the receive function, the property can be lifted to all outgoing actions for all reachabile states. *)
+Lemma lift_outgoing_txs_prop {P : ActionBody -> Prop}
+      (contract : Contract Setup Msg State ) (bstate : ChainState) (addr : Address) :
+  reachable bstate ->
+  (forall chain ctx cstate msg new_cstate acts ,
```
Comment (jakobbotsch) [inline execution/theories/Blockchain.v:2091]:
```suggestion
  (forall chain ctx cstate msg new_cstate acts,
```

Nit :-)

File: execution/theories/Examples/Counter.v [hunk 4]
```diff
@@ -0,0 +1,258 @@
...
+
+  (** Enabling recursors for records allows for deriving [Serializable] instances. *)
+  Set Nonrecursive Elimination Schemes.
+
+  (** The definitions in this section are generalized over the [ChainBase] that specifies the type of addresses and which properties such a type must have *)
+  Context {BaseTypes : ChainBase}.
+
+  Record State :=
+    mkState { count : Z ;
+              owner : Address }.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:29]:
```suggestion
    build_state { count : Z ;
                  owner : Address }.
```

(convention used in rest of Execution)

File: execution/theories/Examples/Counter.v [hunk 5]
```diff
@@ -0,0 +1,258 @@
...
+
+  (** We initialize the contract state with [init_value] and set [owner] to the address from which the contract was deployed *)
+  Definition counter_init (chain : Chain) (ctx : ContractCallContext) (init_value : Z)
+    : option State :=
+    Some {| count := init_value ;
+            owner := ctx.(ctx_from) |}.
+
+  (** Deriving the [Serializable] instances for the state and for the messages *)
+  Global Instance State_serializable : Serializable State :=
+  Derive Serializable State_rect<mkState>.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:71]:
```suggestion
    Derive Serializable State_rect<build_state>.
```

File: execution/theories/Examples/Counter.v [hunk 6]
```diff
@@ -0,0 +1,258 @@
...
+
+  Global Instance Msg_serializable : Serializable Msg :=
+    Derive Serializable Msg_rect<Inc, Dec>.
+
+  (** The counter contract *)
+  Program Definition counter_contract : Contract Z Msg State :=
+  build_contract counter_init _ counter_receive _.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:78]:
```suggestion
    build_contract counter_init _ counter_receive _.
```

Comment (jakobbotsch) [reply execution/theories/Examples/Counter.v:78]: Also, maybe leave a comment that normally there are obligations to show that the contract's code respects extensional equality of `Chain`, but those obligations are solved automatically here?

File: execution/theories/Examples/Counter.v [hunk 7]
```diff
@@ -0,0 +1,258 @@
...
+
+End Counter.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:80]: Can we just leave this open and get rid of the next two sections since they have the same context?

File: execution/theories/Examples/Counter.v [hunk 8]
```diff
@@ -0,0 +1,258 @@
...
+Section SafetyProperties.
+
+Context {BaseTypes : ChainBase}.
+
+(** Auxiliary definitions for stating the safety property *)
+Definition counter_state (env : Environment) (address : Blockchain.Address) : option State :=
+match (env_contract_states env address) with
+| Some sv => deserialize sv
+| None => None
+end.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:160]: This can be replaced with `contract_state` from Blockchain.v. Actually, the only reason `contract_induction` works below is that Coq manages to unify this function with `contract_state` :)

File: execution/theories/Examples/Counter.v [hunk 9]
```diff
@@ -0,0 +1,258 @@
...
+
+(** Converting a message to a number. Note that the decrements are negative. *)
+Definition opt_msg_to_number (msg : option Msg) :=
+  match msg with
+  | Some m => match m with
+             | Inc n => n
+             | Dec n => - n
+             end
+  | _ => 0
+  end.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:170]:
```suggestion
  match msg with
  | Some (Inc n) => n
  | Some (Dec n) => - n
  | None => 0
  end.
```

File: execution/theories/Examples/Counter.v [hunk 10]
```diff
@@ -0,0 +1,258 @@
...
+    instantiate (AddBlockFacts := fun _ _ _ _ _ _ => True).
+    instantiate (DeployFacts := fun _ _ => True).
+    unset_all; subst; cbn in *.
+    destruct_chain_step; auto.
+    destruct_action_eval; auto.
+    cbn. intros cstate Hc Hstate.
+    (* we use the fact that [counter_receive] doesn't return any actions *)
+    assert ((outgoing_acts bstate_from to_addr) = []) as Hempty.
+    { apply lift_outgoing_txs_empty with (contract := counter_contract);eauto.
+      intros. eapply (receive_produces_no_calls (chain:=chain) (ctx:=ctx));eauto. apply H. }
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:251]: Nice, I can use this for some other contracts too :)

File: execution/theories/Examples/Counter.v [hunk 11]
```diff
@@ -0,0 +1,258 @@
...
+  (** The "entry point" of the contract. Dispatches on a message and calls [counter]. *)
+  Definition counter_receive (chain : Chain) (ctx : ContractCallContext)
+             (state : State) (msg : option Msg) : option (State * list ActionBody)
+    := match msg with
+       | Some m => match counter state m with
+                   | Some res => Some (res, [])
+                   | None => None
+                  end
+       | None => None
+       end.
```
Comment (jakobbotsch) [inline execution/theories/Examples/Counter.v:61]:
```suggestion
  Definition counter_receive (chain : Chain) (ctx : ContractCallContext)
             (state : State) (msg : option Msg) : option (State * list ActionBody) :=
    do msg <- msg;
    do res <- counter state msg;
    ret (res, []).
```

File: execution/theories/Blockchain.v [hunk 12]
```diff
@@ -910,6 +910,27 @@ Definition created_blocks
   filter (fun b => (block_creator b =? creator)%address)
          (trace_blocks trace).
 
+Definition is_deploy (ac : ActionBody) : bool :=
+  match ac with
+  | act_transfer to amount => false
+  | act_call to amount msg => false
+  | act_deploy amount c setup => true
+  end.
+
```
Comment (spitters) [inline execution/theories/Blockchain.v:919]: May be more readable with wildcards ( _ ) ??

**Comment by spitters** [comment]
That's a very nice demo!

File: execution/theories/Blockchain.v (hunk 2 above)
Comment (annenkov) [reply execution/theories/Blockchain.v:2068]: Yes, because `receive` is partial :) At first I did as you suggested, but then realised that it only holds if `receive` returns something.

File: execution/theories/Blockchain.v (hunk 1 above)
Comment (annenkov) [reply execution/theories/Blockchain.v:933]: Yes, but I wanted to have these, because I defined them for the crowdfunding and it seems useful to have such abbreviations for stating properties. So, I'll use them in my statement for the crowdfunding.

File: execution/theories/Examples/Counter.v (hunk 8 above)
Comment (annenkov) [reply execution/theories/Examples/Counter.v:160]: Ah, cool :) Sure, I'll replace

File: execution/theories/Blockchain.v (hunk 2 above)
Comment (jakobbotsch) [reply execution/theories/Blockchain.v:2068]: Ah, that makes sense.

File: execution/theories/Examples/Counter.v (hunk 11 above)
Comment (annenkov) [reply execution/theories/Examples/Counter.v:61]: I wanted to avoid using the do notation since this is mostly Haskell's feature (which makes code much more readable, I agree).

File: execution/theories/Blockchain.v (hunk 1 above)
Comment (jakobbotsch) [reply execution/theories/Blockchain.v:933]: Can you add them together with that change? (I don't like having dead code committed if it can be avoided :-) )

**Comment by annenkov** [comment]
Ok, I'll do another commit, because some stuff is removed now and we will make a pass again.

File: execution/theories/Examples/Counter.v (hunk 7 above)
Comment (annenkov) [reply execution/theories/Examples/Counter.v:80]: I want sections also to delimit the scope of things. So, it's clear that the counter is defines in the Counter section etc.

Comment (jakobbotsch) [reply execution/theories/Examples/Counter.v:80]: Ok, sounds fine to me :)

File: execution/theories/Blockchain.v (hunk 1 above)
Comment (annenkov) [reply execution/theories/Blockchain.v:933]: Ok, I will. But is_transfer will not be used, I just included it for completeness :)

Comment (jakobbotsch) [reply execution/theories/Blockchain.v:933]: That seems fine.

**Comment by jakobbotsch** [comment]
Ah sorry, I forgot to let @spitters rereview. I hope he did not have any new feedback.

**Comment by spitters** [comment]
No is fine. Thanks!
